US06265524B1
400 parts of distilled water were added to 200 parts of diphenyl carbonate, obtained through the decarbonylation reaction of diphenyl oxalate using a hydrochloride of tetraphenyl phosphonium chloride as a catalyst, and the mixture was heated to 90° C. and stirred for 1 hour. This washing step was repeated twice to obtain diphenyl carbonate containing 4.9 ppm of hydrolyzable chlorine. An ester interchange reaction between this diphenyl carbonate and bisphenol A was carried out in the same manner as in Example 1 except that a disodium salt of bisphenol A was used in place of sodium hydroxide as an ester interchange catalyst in an amount of 3.0×10−5 mole, in terms of sodium, based on bisphenol A, to synthesize polycarbonate. A pellet of this polycarbonate was used for the measurement of its physical properties. The conditions and results are shown in Tables I-A and I-B below.

reactant | diphenyl carbonate | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
catalyst | hydrochloride | Cl | ClH
catalyst | tetraphenyl phosphonium chloride | [Cl-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | O | H2O
product | diphenyl oxalate | C(C(=O)OC1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C14H10O4
